US08426437B2
30 μL (0.37 mmol) of pyridine and 20 μL (0.22 mmol) of aniline are added to 60 mg (0.18 mmol) of 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid suspended in 4 mL of anhydrous dichloromethane and 1 mL of anhydrous dimethylformamide. The reaction mixture is stirred for 5 hours at room temperature then diluted with a 10% aqueous solution of potassium carbonate and dichloromethane. The phases are separated and the aqueous phase is acidified with acetic acid to pH of 4. The product is extracted with dichloromethane. The organic phase is dried over magnesium sulfate, filtered then evaporated. The residue is diluted with water (5 mL) then the solid is filtered and dried under vacuum to give 30 mg (42%) of 4-oxo-8-phenylsulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid in the form of a beige solid.

reactant | pyridine | 0.37 mmol, 30 μL | N1=CC=CC=C1 | C5H5N
reactant | aniline | 0.22 mmol, 20 μL | NC1=CC=CC=C1 | C6H7N
reactant | 8-chlorosulfonyl-4-oxo-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 0.18 mmol, 60 mg | ClS(=O)(=O)C1=CC=2C3=C(C(NC2C=C1)=O)NC=C3C(=O)O | C12H7ClN2O5S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-oxo-8-phenylsulfamoyl-4,5-dihydro-3H-pyrrolo[2,3-c]quinoline-1-carboxylic acid | 30 mg, 42% | O=C1NC=2C=CC(=CC2C2=C1NC=C2C(=O)O)S(NC2=CC=CC=C2)(=O)=O | C18H13N3O5S
